US06476051B2
B. 3-[1-(t-butoxycarbonyl)-4-piperidinyl]-5-cyanoindole (IX)
A solution of 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-5-cyanoindole (15.3 g, 47.3 mmol) in ethanol was treated with 10% palladium on carbon (2.38 g). The mixture was hydrogenated on a Parr shaker at 50 psi for 18 hours and then filtered through celite to remove inorganics. Evaporation gave the desired product as an off white solid (15.2 g, 98%). 1H-NMR δ(CDCl3) 8.33 (br s, 1 H), 7.99 (s, 1 H), 7.42 (s, 2 H), 7.07 (s, 1 H), 4.22 (m, 2 H), 2.82 (m, 3 H), 1.98 (br d, 2 H), 1.66 (m, 2 H), 1.48 (s, 9 H).

reactant | 3-[1-(t-butoxycarbonyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-5-cyanoindole | 47.3 mmol, 15.3 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C19H21N3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 2.38 g | [Pd] | Pd
product | 3-[1-(t-butoxycarbonyl)-4-piperidinyl]-5-cyanoindole | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)C#N | C19H23N3O2
